US08067445B2
Step 2: (5-Benzyloxy-2-chloro-phenyl)-acetic acid ethyl ester
To (5-benzyloxy-2-chloro-phenyl)-acetic acid (1.5 g, 5.4 mmol) in EtOH (30 mL) was added sulfuric acid (1 mL), and the mixture was stirred overnight at room temperature. Once no starting material was seen by analytical LCMS, the reaction was worked up to give the title compound.

reactant | (5-benzyloxy-2-chloro-phenyl)-acetic acid | 5.4 mmol, 1.5 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)CC(=O)O)Cl | C15H13ClO3
reactant | sulfuric acid | 1 mL | S(O)(O)(=O)=O | H2O4S
reactant | EtOH | 30 mL | CCO | C2H6O
product | (5-Benzyloxy-2-chloro-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=C(C=CC(=C1)OCC1=CC=CC=C1)Cl)=O | C17H17ClO3
